US08242104B2
A suspension of 5-[2-(4-benzyloxy-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-1H-[1,2,4]triazole (84 g, 0.22 mol) and [1,3]dioxolan-2-one (48 g, 0.55 mol) in toluene (100 mL) was heated at 130° C. for 7.5 h allowing some solvent to evaporate until reaction was initiated. The cooled reaction mixture was concentrated in vacuo and the residue treated with acetonitrile (50 mL), stirred, sonicated and cooled in an ice bath. The resultant solid was collected by filtration, washed with cold acetonitrile then diethyl ether and dried in vacuo at 60° C. to give 2-[2-(4-Benzyloxy-2-fluoro-phenyl)-4-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-imidazol-1-yl]-ethanol (65.2 g, 70%). 1H NMR (400 MHz, CDCl3): 8.04 (1H, s), 7.80 (1H, d, J=0.71 Hz), 7.43-7.41 (6H, m), 6.89 (1H, dd, J=8.59, 2.50 Hz), 6.79 (1H, dd, J=11.73, 2.47 Hz), 5.93-5.92 (1H, m), 5.11 (2H, s), 4.02 (2H, t, J=4.93 Hz), 3.89 (2H, t, J=4.96 Hz), 1.49 (6H, d, J=6.61 Hz). LCMS: RT=3.30 min, [M+H]+=422.

reactant | 5-[2-(4-benzyloxy-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-1H-[1,2,4]triazole | 0.22 mol, 84 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1NC=C(N1)C1=NC=NN1C(C)C)F | C21H20FN5O
reactant | [1,3]dioxolan-2-one | 0.55 mol, 48 g | O1C(OCC1)=O | C3H4O3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(4-Benzyloxy-2-fluoro-phenyl)-4-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-imidazol-1-yl]-ethanol | 65.2 g, 70% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1N(C=C(N1)C=1N(N=CN1)C(C)C)CCO)F | C23H24FN5O2
